US08486967B2
d) 4-Amino-2-phenylmorpholin-3-one
tert-Butyl 2-(2-(2-methoxy-2-oxo-1-phenylethoxy)ethyl)hydrazinecarboxylate (390 mg, 1.2 mmol) in water (85 mL) was heated to 95° C. for 12 h. The reaction mixture was extracted with dichloromethane, the organic layers were combined, dried over Na2SO4 and the solvent was evaporated to give the title compound as light yellow oil (183 mg, 79%).

reactant | tert-Butyl 2-(2-(2-methoxy-2-oxo-1-phenylethoxy)ethyl)hydrazinecarboxylate | 1.2 mmol, 390 mg | COC(C(OCCNNC(=O)OC(C)(C)C)C1=CC=CC=C1)=O | C16H24N2O5
solvent | water | 85 mL | O | H2O
product | 4-Amino-2-phenylmorpholin-3-one | 183 mg, 79% | NN1C(C(OCC1)C1=CC=CC=C1)=O | C10H12N2O2
